US04994571
N-(2-Chloroimidazo[1,2-a]pyridine-3-ylsulfonyl)-N'-(4,6-dimethoxy-2-pyrimidinyl)urea (Compound No. 1)
In 30 ml of acetonitrile are dissolved 2.32 g (0.01 mole) of 2-chloroimidazo[1,2-a]pyridine-3-sulfonamide and 2.02 g (0.02 mole) of triethylamine, followed by addition of 1.60 g (0.01 mole) of phenyl chloroformate with stirring at 10° to 20° C. The mixture is further stirred at 20° to 25° C. for 30 minutes, and to the mixture are added 1.00 g (0.010 mole) of methanesulfonic acid and then 1.55 g (0.01 mole) of 2-amino-4,6-dimethoxypyrimidine. The mixture is stirred at 60° C. for 15 minutes. After cooling, the crystals which separates out are collected by filtration and washed with water 3 times with 10 ml of water each. The crystals were then dried in vacuo over P2O5 to give 3.42 g (yield 83.0%) of the title compound.

reactant | 2-chloroimidazo[1,2-a]pyridine-3-sulfonamide | 0.01 mole, 2.32 g | ClC=1N=C2N(C=CC=C2)C1S(=O)(=O)N | C7H6ClN3O2S
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.01 mole, 1.60 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | methanesulfonic acid | 0.010 mole, 1.00 g | CS(=O)(=O)O | CH4O3S
reactant | 2-amino-4,6-dimethoxypyrimidine | 0.01 mole, 1.55 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(2-Chloroimidazo[1,2-a]pyridine-3-ylsulfonyl)-N'-(4,6-dimethoxy-2-pyrimidinyl)urea | 3.42 g, yield 83.0% | ClC=1N=C2N(C=CC=C2)C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H13ClN6O5S
